US04473561
To a solution of α-hydroxyethylphosphinic acid (330 mg) in methanol, a solution of morpholine (261 mg) in methanol (1 ml) was added, and the resultant mixture was stirred for 2 hours. After removal of methanol by distillation, there was obtained morpholinium α-hydroxyethylphosphinate (Compound No. 14) (556 mg). nD24.5 1.4621.

reactant | α-hydroxyethylphosphinic acid | 330 mg | OC(C)P(O)=O | C2H7O3P
reactant | morpholine | 261 mg | N1CCOCC1 | C4H9NO
solvent | methanol | CO | CH4O
solvent | methanol | 1 ml | CO | CH4O
product | morpholinium α-hydroxyethylphosphinate | OC(C)P([O-])=O.[NH2+]1CCOCC1 | InChI=1S/C4H9NO.C2H7O3P/c1-3-6-4-2-5-1;1-2(3)6(4)5/h5H,1-4H2;2-3,6H,1H3,(H,4,5)
